US05190942
A. 2-formylbenzoic acid, ethyl ester
2-Carboxybenzaldehyde (2.018g, 13.4 mmol, 1.0 eq.) was combined with sodium bicarbonate (2.258 g, 26.9 mmol, 2.0 eq.) and iodoethane (2.15 ml, 26.9 mmol, 2.0 eq.) in dimethylformamide (13.4 ml, 1M) and stirred at room temperature for 16 hours. The reaction was diluted with water (25 ml) and extracted with ether: hexane (1:1, 3X20 ml). The combined organic extracts were washed with aqueous 10% sodium bisulfite (1X25 ml), water (1X25 ml) and aqueous saturated sodium chloride (1X25 ml), dried over sodium sulfate, filtered through magnesium sulfate and concentrated. The residue was chromatographed on Merck silica gel (20 g) eluting with hexane: ether (14:1) to provide the title A compound (1.485 g).

reactant | 2-Carboxybenzaldehyde | 13.4 mmol, 2.018g, 1.0 eq. | C(=O)(O)C1=C(C=O)C=CC=C1 | C8H6O3
reactant | sodium bicarbonate | 26.9 mmol, 2.258 g, 2.0 eq. | C([O-])(O)=O.[Na+]
reactant | iodoethane | 26.9 mmol, 2.15 ml, 2.0 eq. | ICC | C2H5I
solvent | dimethylformamide | 1M, 13.4 ml | CN(C=O)C | C3H7NO
solvent | water | 25 ml | O | H2O
product | 2-formylbenzoic acid, ethyl ester | 1.485 g | C(=O)C1=C(C(=O)OCC)C=CC=C1 | C10H10O3
